US05631257
1-Allyl-1-methyl-4-(naphtho[2,3-d]oxazol-2-yl)piperazinium iodide
Under cooling with ice, 18 mg of 2-(4-methyl-1-piperazinyl)naphtho[2,3-d]oxazole dissolved in 5 ml of DMF was mixed with 14 mg of allyl iodide, and the reaction was carried out for 1 hour at the same temperature and then for 1.5 hours at room temperature. The reaction mixture was concentrated under a reduced pressure, and 10 ml of ethyl acetate was added to the resulting residue. Thereafter, the precipitate thus formed was collected by filtration, dissolved in 5 ml of water and then lyophilized to obtain 28 mg of the title compound.

reactant | 2-(4-methyl-1-piperazinyl)naphtho[2,3-d]oxazole | 18 mg | CN1CCN(CC1)C=1OC2=C(N1)C=C1C=CC=CC1=C2 | C16H17N3O
reactant | allyl iodide | 14 mg | C(C=C)I | C3H5I
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-Allyl-1-methyl-4-(naphtho[2,3-d]oxazol-2-yl)piperazinium iodide | 28 mg | [I-].C(C=C)[N+]1(CCN(CC1)C=1OC2=C(N1)C=C1C=CC=CC1=C2)C | InChI=1S/C19H22N3O.HI/c1-3-10-22(2)11-8-21(9-12-22)19-20-17-13-15-6-4-5-7-16(15)14-18(17)23-19;/h3-7,13-14H,1,8-12H2,2H3;1H/q+1;/p-1
